US08957080B2
To a solution of tert-butyl (1-(hydroxymethyl)cyclopropyl)carbamate (Bioorg. Med. Chem. Lett., 2008, 18(6), 2188) (135 mg, 0.72 mmoles) in DCM (8 mL) was added Dess-Martin periodinane (277 mg, 0.65 mmole). After stirring 1 hr, the reaction was filtered through celite and concentrated to a yellow oil which was further purified by Isolera (7%-70% ethyl acetate/hexanes) to provide 84 mg (87%) of tert-butyl (1-formylcyclopropyl)-carbamate as a white solid.

reactant | tert-butyl (1-(hydroxymethyl)cyclopropyl)carbamate | 0.72 mmoles, 135 mg | OCC1(CC1)NC(OC(C)(C)C)=O | C9H17NO3
reactant | Dess-Martin periodinane | 0.65 mmole, 277 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1-formylcyclopropyl)-carbamate | 84 mg, 87% | C(=O)C1(CC1)NC(OC(C)(C)C)=O | C9H15NO3
